US05444084
Preparation of (E,E,E)-3-[3-(7-methoxymethyl-13,13-dimethyltetradeca-1,6,9-trien-11-ynyl)phenyl]thiophene
The compounds of Examples 30 and 31 are obtained by carrying out the same reaction as in Example 29 except that (E,E)-2-(6,6-dimethyl-2-hepten-4-ynyl)-7-[3-(3-thienyl)phenoxy]-2-hepten-1-ol and/or ethyl iodide are used in place of (E,E,E)-2-(6,6-dimethyl-2-hepten-4-ynyl)-8-[3-(3-thienyl)phenyl]-2,7-octadien-1-ol and/or methyl iodide which is the raw material compound used in the above reaction.

reactant | (E,E)-2-(6,6-dimethyl-2-hepten-4-ynyl)-7-[3-(3-thienyl)phenoxy]-2-hepten-1-ol | CC(C#C/C=C/C/C(/CO)=C\CCCCOC1=CC(=CC=C1)C1=CSC=C1)(C)C | C26H32O2S
reactant | ethyl iodide | C(C)I | C2H5I
reactant | (E,E,E)-2-(6,6-dimethyl-2-hepten-4-ynyl)-8-[3-(3-thienyl)phenyl]-2,7-octadien-1-ol | CC(C#C/C=C/C/C(/CO)=C\CCC\C=C\C1=CC(=CC=C1)C1=CSC=C1)(C)C | C27H32OS
reactant | methyl iodide | CI | CH3I
product | (E,E,E)-3-[3-(7-methoxymethyl-13,13-dimethyltetradeca-1,6,9-trien-11-ynyl)phenyl]thiophene | COC/C(=C/CCC/C=C/C=1C=C(C=CC1)C1=CSC=C1)/C\C=C\C#CC(C)(C)C | C28H34OS
